US07758932B2
Synthesis of 3,4,3′,4′-tetrakishexyloxybiphenyl
A mixture of 1200 mL of distilled water/acetone (1/1), 194 g of Pd/C (Pd: 10%), 194 g of zinc powder, and 200 g (495 mmol) of 1,2-bishexyloxy-4-iodobenzene was stirred at 50° C. for 24 hours. The resulting reaction mixture was filtered with a glass filter and extracted with chloroform. The organic phase was washed with distilled water and dried over MgSO4. Then, the solvent was evaporated and 123 g of a yellow solid was obtained. The yellow solid was recrystallized from ethanol and 58.5 g of a white solid was obtained.

reactant | 1,2-bishexyloxy-4-iodobenzene | 495 mmol, 200 g | C(CCCCC)OC1=C(C=C(C=C1)I)OCCCCCC | C18H29IO2
catalyst | Pd/C | 194 g | [Pd] | Pd
catalyst | zinc | 194 g | [Zn] | Zn
solvent | water acetone | 1200 mL | O.CC(=O)C
product | 3,4,3′,4′-tetrakishexyloxybiphenyl | 123 g | C(CCCCC)OC=1C=C(C=CC1OCCCCCC)C1=CC(=C(C=C1)OCCCCCC)OCCCCCC | C36H58O4
